US07544702B2
2-Chloro-N-{6-methyl-5-[4-(morpholine-4-sulfonyl)-phenylsulfanyl]-pyridin-2-yl}-4-trifluoromethyl-benzenesulfonamide (103)
Prepared from 2-amino-5-bromo-6-methylpyridine and 4-(N-morpholinylsulfonyl)thiophenol according to General Method 11 step 1 followed by reaction with 2-chloro-4-trifluoromethylphenylsulfonyl chloride according to General Method 11 step 1. 1H NMR (CDCl3): 8.24 (1H, d, J 10 Hz, Ar CH ortho to SO2NH), 7.65 (1 H, s, A-ring CH ortho to Cl & CF3), 7.61-7.48 (4H, m, Ar CH's), 7.03 (2H, d, J 9 Hz, Ar CH's), 6.81 (1H, d, J 11 Hz, Ar CH), 3.66-3.58 (4H, m, CH2OCH2), 2.90-2.81 (4H, m, CH2NCH2), 2.41 (3H, s, CH3). Hplc (Luna 2, Gradient 5): rt=5.94 minutes. LC/MS rt=6.60 minutes, 608 (MH+).

reactant | 2-amino-5-bromo-6-methylpyridine | NC1=NC(=C(C=C1)Br)C | C6H7BrN2
reactant | 4-(N-morpholinylsulfonyl)thiophenol | N1(CCOCC1)S(=O)(=O)C1=CC=C(C=C1)S | C10H13NO3S2
reactant | 2-chloro-4-trifluoromethylphenylsulfonyl chloride | ClC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)Cl | C7H3Cl2F3O2S
product | 2-Chloro-N-{6-methyl-5-[4-(morpholine-4-sulfonyl)-phenylsulfanyl]-pyridin-2-yl}-4-trifluoromethyl-benzenesulfonamide | ClC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)NC1=NC(=C(C=C1)SC1=CC=C(C=C1)S(=O)(=O)N1CCOCC1)C | C23H21ClF3N3O5S3
